US04987132
A mixture of 0.80 g of ethyl 4-styrylpiperidine-1carboxylate and 80 mg of 10% palladium-on-carbon in ethyl acetate (40 ml) was subjected to catalytic reduction at room temperature until stopping of hydrogen absorption. The catalyst was filtered off, and the filtrate was concentrated under reduced pressure to give 0.80 g of ethyl 4-(2-phenylethyl)piperidine-1-carboxylate.

reactant | ethyl 4-styrylpiperidine-1carboxylate | 0.80 g | C(=CC1=CC=CC=C1)C1CCN(CC1)C(=O)OCC | C16H21NO2
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium-on-carbon | 80 mg | [Pd] | Pd
product | ethyl 4-(2-phenylethyl)piperidine-1-carboxylate | 0.80 g | C1(=CC=CC=C1)CCC1CCN(CC1)C(=O)OCC | C16H23NO2
